US05006570
Step I - Preparation of N-(1-Ethyl-2-pyrrolidinylmethyl)chroman-8-carboxamide (Compound of this Invention)
46 g of chroman-8-carboxylic acid, 188 ml of chloroform and 26 g of triethylamine were introduced into a 1-liter round-bottomed flask. The contents were cooled to 0° C. and 28 g of ethyl chloroformate were then added in small amounts, between 0° and 5° C. The contents were stirred for 30 minutes at 5° C. and 36 g of 1-ethyl-2-aminomethylpyrrolidine were then poured in dropwise, between 5° and 10° C. The contents were then stirred for 1 hour at 10° C. and the temperature was then allowed to rise. The chloroform was distilled off under slight vacuum, the residue was taken up with water and acetic acid was added until a pH of 4 was obtained. The solution obtained was filtered with charcoal and then made alkaline with 20% ammonia until a color change of phenolphthalein was observed.

reactant | chroman-8-carboxylic acid | 46 g | O1CCCC2=CC=CC(=C12)C(=O)O | C10H10O3
reactant | chloroform | 188 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl chloroformate | 28 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-ethyl-2-aminomethylpyrrolidine | 36 g | C(C)N1C(CCC1)CN | C7H16N2
solvent | triethylamine | 26 g | C(C)N(CC)CC | C6H15N
product | N-(1-Ethyl-2-pyrrolidinylmethyl)chroman-8-carboxamide | C(C)N1C(CCC1)CNC(=O)C=1C=CC=C2CCCOC12 | C17H24N2O2
